US04808586
4-(6-Chloro-4,7-dihydro-4,7-dioxo-2,1,3-benzothiadiazol-5-yl)-1-piperazinecarboxaldehyde
A 600 mg portion of 6-chlor-2,1,3-benzothiadiazole-4,7-dione and 342 mg of 1-piperazinecarboxaldehyde were reacted as described in Example 8, giving 164 mg of the desired product, mp 191°-194°.

reactant | 6-chlor-2,1,3-benzothiadiazole-4,7-dione | ClC1=CC(C=2C(=NSN2)C1=O)=O | C6HClN2O2S
reactant | 1-piperazinecarboxaldehyde | 342 mg | N1(CCNCC1)C=O | C5H10N2O
product | 4-(6-Chloro-4,7-dihydro-4,7-dioxo-2,1,3-benzothiadiazol-5-yl)-1-piperazinecarboxaldehyde | 164 mg | ClC1=C(C(C=2C(=NSN2)C1=O)=O)N1CCN(CC1)C=O | C11H9ClN4O3S
